US04387051
p-Nitrobenzyl (5R,6S)-3-(2-acetamidoethylthio)-6-[(1S)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (250 mg) in pyridine (7 ml) were treated with 70 mg. aliquots of chlorotrimethylsilane until all the starting hydroxycompound has reacted (4 aliquots required). The pyridine was removed by evaporation in vacuo, ethyl acetate (20 ml) was added to the residue and the resultant solution washed with water (20 ml). The ethyl acetate was dried (MgSO4) and evaporated in vacuo. Toluene (20 ml) was added to the residue and evaporated in vacuo to remove residual traces of pyridine. The crude silyl ether was then chromatographed on silica gel (0.040-0.063 mm; 15 g) eluting with ethyl acetate. Fractions containing the trimethylsilyl ether were combined and evaporated in vacuo to yield p-nitrobenzyl (5R, 6S)-3-(2-acetamidoethylthio)-6-[(1S)-1-trimethylsilyloxyethyl]7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (145 mg). Found M+ m/e 521.1657 C23H31N3O7SSi requires m/e 521.1650.

reactant | p-Nitrobenzyl (5R,6S)-3-(2-acetamidoethylthio)-6-[(1S)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 250 mg | C(C)(=O)NCCSC1=C(N2C([C@@H]([C@H]2C1)[C@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H23N3O7S
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | p-nitrobenzyl (5R, 6S)-3-(2-acetamidoethylthio)-6-[(1S)-1-trimethylsilyloxyethyl]7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 145 mg | C(C)(=O)NCCSC1=C(N2C([C@@H]([C@H]2C1)[C@H](C)O[Si](C)(C)C)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H31N3O7SSi
